US04311699
A suspension of 22.4 g (129 mmol) of N-acetyl-L-4-hydroxyproline and 300 ml of dichloromethane is stirred at -10° and 18.06 ml (130 mmol) of triethylamine is added, followed by 10.2 ml (130 mmol) of methyl chloroformate at -10° to -15° C. The silylated acid solution from above is added in aliquots keeping the temperature below -5° C. When all is added, the reaction temperature is allowed to rise to 0° C. and the reaction flask is placed in an ice bath. The reaction is stirred overnight allowing the bath temperature to rise to room temperature. The reaction is filtered and filtrate is evaporated. Water is added to the residue and the mixture is stirred for 2 hrs and filtered. The product is resuspended in water, stirred, and filtered. The solid is taken up in isopropanol and a light precipitate is filtered off. The filtrate is evaporated down and the residue is washed with isopropanol and then ether. The product is suspended in water and cooled in an ice bath. The pH is adjusted to 2.15 with dilute hydrochloric acid and the precipitate is filtered. The solid is taken up in isopropanol and the insolubles filtered off. The solids are dissolved in methanol and added to the isopropanol solution. The resulting solution is evaporated down and ether added to the residue. A light yellow solid is obtained and dried under vacuum to give 8.8 g of 2-[4-acetyl-L-hydroxyprolylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid.

reactant | N-acetyl-L-4-hydroxyproline | 129 mmol, 22.4 g | C1[C@H](CN([C@@H]1C(=O)O)C(=O)O)O | C6H9NO5
reactant | triethylamine | 130 mmol, 18.06 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 130 mmol, 10.2 ml | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-hydroxy-5-pyrimidine carboxylic acid | OC1=NC=NC=C1C(=O)O | C5H4N2O3
